US06593350B2
[7-Nitro-8-(2-oxoethyl)-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate
A solution of 4.2 g (10 mmole) of toluene-4-sulfonic acid (2R)-8-allyl-7-nitro-2,3-dihydro-benzo (1,4)dioxin-2-ylmethyl ester in 400 mL of methylene chloride was cooled in a dry ice/isopropanol bath and saturated with ozone. It was then purged with oxygen and 2.6 g (20 mmole) of diisopropylethylamine added. The mixture was allowed to come to room temperature and stirred under nitrogen for 24 hours. It was then washed with 300 mL portions of 2 N HCl (aq), water and saturated brine, dried over magnesium sulfate, filtered and concentrated in vacuum to give 3.8 g of the (R)-enantiomer of the title compound as a white solid one-quarter hydrate, m.p. 116-120° C.

reactant | toluene-4-sulfonic acid (2R)-8-allyl-7-nitro-2,3-dihydro-benzo (1,4)dioxin-2-ylmethyl ester | 10 mmole, 4.2 g | C(C=C)C1=C(C=CC2=C1O[C@H](CO2)COS(=O)(=O)C2=CC=C(C=C2)C)[N+](=O)[O-] | C19H19NO7S
reactant | ozone | O=[O+][O-] | O3
reactant | oxygen | O=O | O2
reactant | diisopropylethylamine | 20 mmole, 2.6 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | [7-Nitro-8-(2-oxoethyl)-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C(=C(C=C2)[N+](=O)[O-])CC=O | C18H17NO8S
